US08802704B2
Step 2: tert-butyl N-{4-[amino(hydroxyimino)methyl]-2-fluorobenzyl}-N-methylglycinate
A 50% aqueous solution of hydroxylamine (345 mL, 5.85 mol) was added dropwise over 10 minutes into a solution of tert-butyl N-(4-cyano-2-fluorobenzyl)-N-methylglycinate (325 g, 1.17 mol) in EtOH (2.1 L). The reaction mixture was stirred at RT for 20 hours. Solvents were concentrated under vacuum and water (2 L) was added. The resulting suspension was filtered off, washed with water (1 L) and dried under vacuum to give title compound as white powder (323 g, 89%). 1H NMR (DMSO-d6, 300 MHz) δ 9.74 (s, 1H), 7.51 (dd, J=8.0, 1.6 Hz, 1H), 7.45-7.36 (m, 2H), 5.87 (s, 2H), 3.70 (s, 2H), 3.17 (s, 2H), 2.26 (s, 3H), 1.42 (s, 9H). LC/MS (Method B): 312.3 (M+H)+.

reactant | hydroxylamine | 5.85 mol, 345 mL | NO | H3NO
reactant | tert-butyl N-(4-cyano-2-fluorobenzyl)-N-methylglycinate | 1.17 mol, 325 g | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)F | C15H19FN2O2
solvent | EtOH | 2.1 L | CCO | C2H6O
product | tert-butyl N-{4-[amino(hydroxyimino)methyl]-2-fluorobenzyl}-N-methylglycinate | 323 g, 89% | NC(C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)F)=NO | C15H22FN3O3
